US08110579B2
Stir a solution of 4.84 g (14.2 mmol) of methyl 3-bromo-4-iodobenzoate (J. Med. Chem., 1999, 42, 4088) and 3.88 g (21.29 mmol) of 2,6-dimethoxyphenyl boronic acid in 120 mL of DMF and 14.2 mL of a 2M aqueous solution of caesium carbonate for 15 minutes under argon, then add 984 mg (0.85 mmol) of Pd(PPh3)4 and heat for 2.5 h at 85° C. After concentration under reduced pressure, distribute the residue obtained in 600 mL of a 1:1 DCM/water mixture. Wash the organic phase with 100 mL of water, dry over MgSO4 and concentrate at reduced pressure. Purify the residue obtained by silica gel column chromatography, eluting with a heptane/EtOAc gradient from 0 to 10% of EtOAc. After concentration under reduced pressure, we obtain 2.79 g of methyl 2-bromo-2′,6′-dimethoxybiphenyl-4-carboxylate in the form of oil.

reactant | methyl 3-bromo-4-iodobenzoate | 14.2 mmol, 4.84 g | BrC=1C=C(C(=O)OC)C=CC1I | C8H6BrIO2
reactant | 2,6-dimethoxyphenyl boronic acid | 21.29 mmol, 3.88 g | COC1=C(C(=CC=C1)OC)B(O)O | C8H11BO4
reactant | caesium carbonate | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | DMF | 120 mL | CN(C)C=O | C3H7NO
catalyst | Pd(PPh3)4 | 0.85 mmol, 984 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | methyl 2-bromo-2′,6′-dimethoxybiphenyl-4-carboxylate | 2.79 g, Yield=56% | BrC1=C(C=CC(=C1)C(=O)OC)C1=C(C=CC=C1OC)OC | C16H15BrO4
